US07847101B2
Synthesis of 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazol-5-ol (574-13)
To a suspension of 4-(5-methoxy-benzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine (60 mg, 0.23 mmol) in CH2Cl2 (5 mL) at 4° C. was slowly added tribromoborane (2.3 mL of a 1M solution in dichloromethane, 2.3 mmol). The reaction temperature was maintained at 4° C. and the solution was stirred overnight. The mixture was then neutralized with sodium carbonate solution. The resulting solids were isolated by filtration and were purified by flash chromatography eluting with CHCl3:MeOH=9:1 to yield 10 mg (19%) of the title compound as a cream coloured solid. MS (m/z, ES+): 247.1 (M+1, 100%).

reactant | 4-(5-methoxy-benzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 0.23 mmol, 60 mg | COC=1C=CC2=C(N=C(S2)C2=C(NN=C2C)N)C1 | C12H12N4OS
reactant | tribromoborane | BrB(Br)Br | BBr3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazol-5-ol | 10 mg, 19% | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=C(C=C2)O | C11H10N4OS
